US08030489B2
To a mixture of 4-methoxybenzyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,3-dimethyl-1H-pyrazole-5-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate (0.50 g) and methylene chloride (5.0 ml) was added trifluoroacetic acid (5.0 ml) under ice-cooling, followed by stirring for 1 hour under ice-cooling. The reaction mixture was concentrated under reduced pressure, and diethyl ether and a saturated sodium bicarbonate solution were added to the residue. The organic layer was separated, the aqueous layer was then washed with diethyl ether, and citric acid was added thereto under ice-cooling. The solid precipitated was collected by filtration, washed with water, then purified by silica gel column chromatography (5% methanol/chloroform), solidified with a 50% aqueous ethanol solution, and washed to obtain (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,3-dimethyl-1H-pyrazole-5-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylic acid (37 mg).

reactant | 4-methoxybenzyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,3-dimethyl-1H-pyrazole-5-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate | 0.50 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C1=CC(=NN1C)C)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OCC1=CC=C(C=C1)OC | C33H41N5O7
reactant | trifluoroacetic acid | 5.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
product | (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,3-dimethyl-1H-pyrazole-5-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylic acid | 37 mg | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C1=CC(=NN1C)C)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)O | C25H33N5O6
